US08222424B2
2-Methanesulfinyl-5-(4-methoxy-benzoyl)-benzenesulfonamide
To a solution of 5-(4-methoxy-benzoyl)-2-methylsulfanyl-benzenesulfonamide (0.06 g, 0.18 mmol) dissolved in methylene chloride (3 mL) at 0° C. is added m-chloroperoxybenzoic acid (0.061 g, 0.36 mmol). The reaction mixture is stirred at room temperature for 30 minutes. Then, the reaction is quenched with saturated sodium sulfite and sodium bicarbonate solution. The aqueous layer is extracted with methylene chloride three times. The combined organic extracts are washed with a saturated sodium chloride solution, dried with magnesium sulfate, and concentrated in vacuo. Purification by silica gel chromatography (75% ethyl acetate-hexane) followed by recrystallization (methylene chloride-hexane) provides 0.022 g (35%) of the title compound as a pale yellow solid. 1H NMR (CDCl3): δ 8.35 (d, J=8 Hz, 1H), 8.10 (dd, J=8, 1 Hz, 1H), 7.80 (d, J=9 Hz, 2H), 7.00 (d, J=9 Hz, 2H), 5.60 (s, 2H), 3.95 (s, 3H), 3.00 (s, 3H). Analytics calculated for C15H15NO5S2: C, 50.98; H, 4.28; N, 3.96. Found: C, 50.17; H, 4.46; N, 3.40. MS (m/z): 352 (M−1).

reactant | 5-(4-methoxy-benzoyl)-2-methylsulfanyl-benzenesulfonamide | 0.18 mmol, 0.06 g | COC1=CC=C(C(=O)C=2C=CC(=C(C2)S(=O)(=O)N)SC)C=C1 | C15H15NO4S2
reactant | m-chloroperoxybenzoic acid | 0.36 mmol, 0.061 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-Methanesulfinyl-5-(4-methoxy-benzoyl)-benzenesulfonamide | 0.022 g, 35% | CS(=O)C1=C(C=C(C=C1)C(C1=CC=C(C=C1)OC)=O)S(=O)(=O)N | C15H15NO5S2
